* C:\users\mes\Desktop\Dropbox\Projects\power\24vAudioSupply\FulWaveBridge.asc
V1 N001 N003 SINE(0 26 60)
D4 0 N003 RF1001T2D
D1 N001 N002 RF1001T2D
D2 0 N001 RF1001T2D
D3 N003 N002 RF1001T2D
C1 N002 0 6600µ V=6.3 Irms=2.2 Rser=0.025 Lser=0
R2 N002 0 9
.model D D
.lib C:\users\mes\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.5s
.backanno
.end
